US04257949
Cyclohexanone morpholine enamine (II)
A mixture of morpholine (697 ml.), cyclohexanone (820 ml.) and hexane (800 ml.) is heated to reflux under nitrogen with a Dean-Stark trap for 18 hours. The aqueous phase (206 ml.) is collected in the distillate trap. The mixture is distilled under vacuum increasing the vacuum to 29 inches and 90°-100° to give the title compound as an oily residue.

reactant | morpholine | 697 ml | N1CCOCC1 | C4H9NO
reactant | cyclohexanone | 820 ml | C1(CCCCC1)=O | C6H10O
solvent | hexane | 800 ml | CCCCCC | C6H14
product | Cyclohexanone morpholine enamine | C1CCC(=CC1)N2CCOCC2 | C10H17NO
